US06713464B1
3-(2-Benzyloxy-5-bromophenyl)-acrylic Acid
A mixture of 2-benzyloxy-5-bromobenzaldehyde (0.10 mol), malonic acid (15.0 g), and piperidine (2.0 ml) in 150 ml of pyridine was first heated at 90° C. for 90 min and subsequently refluxed for 0.5 hrs. After cooling to room temperature, the reaction was poured on a mixture of ice (1 kg) and concentrated aqueous hydrochloric acid (250 ml). The solid material that precipitated after stirring for 2 hrs. was collected by suction and recrystallized from a minimum of boiling methanol.

reactant | 2-benzyloxy-5-bromobenzaldehyde | 0.10 mol | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)Br | C14H11BrO2
reactant | malonic acid | 15.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2.0 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-Benzyloxy-5-bromophenyl)-acrylic Acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C=CC(=O)O | C16H13BrO3
